US05114966
2-(RS)-(2-dimethylaminoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane hydrochloride
The de-benzylation of the 2-(RS)-(2-dimethylaminoethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane hydrochloride is done by carrying out the procedure given in example 15. A white solid is obtained m.p. 171°-173° C.; IR (KBr): 3406 (νOH), 2651, 2438 cm-1 (νNH+); 1H-NMR (CD3OD); δ3.5-2.7 (8H,m), 2.5-2.2 (2H,m), 2.1 (6H,s), 2.0 (3H,s), 1.4 (6H,t).

reactant | 2-(RS)-(2-dimethylaminoethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane hydrochloride | Cl.CN(CCC1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)C
reactant | KBr | [K+].[Br-]
product | 2-(RS)-(2-dimethylaminoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane hydrochloride | Cl.CN(CCC1OC2=C(C1)C(=C(C(=C2C)C)O)C)C | InChI=1S/C15H23NO2.ClH/c1-9-10(2)15-13(11(3)14(9)17)8-12(18-15)6-7-16(4)5;/h12,17H,6-8H2,1-5H3;1H
